US05405826
Preparation of 6,8-diphenylpyrido[2,3-d]pyridazin-5-one
A mixture of phenylhydrazine (5.0 g) and 2-benzoylnicotinic acid (3.25 g) in toluene was stirred at the reflux temperature for 7 hours. The solvent was then evaporated and the residue was purified by chromatography to give the crude product which, on trituration with diethyl ether, yielded the title compound as a yellow solid, 0.41 g, m.p. 173.5°-176.5° C.

reactant | phenylhydrazine | 5.0 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 2-benzoylnicotinic acid | 3.25 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=N1 | C13H9NO3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6,8-diphenylpyrido[2,3-d]pyridazin-5-one | C1(=CC=CC=C1)N1N=C(C2=C(C1=O)C=CC=N2)C2=CC=CC=C2 | C19H13N3O
